US05741926
4-((Bromoacetyl)amino)-1-butoxyaniline
A solution of 4-butoxyaniline (3.0 g, 18 mmol) in a mixture of anhydrous DMF (30 mL) and anhydrous dioxane (30 mL) in a 250 mL 3-necked round-bottomed flask equipped with a constant addition funnel (60 mL) was cooled to 0° C. using an ice-bath. Bromoacetyl bromide (3.68 g, 1.60 mL, 18 mmol) was added dropwise, keeping the internal temperature between 0° and 5° C. over a 1/2 h period. After the addition of the bromoacetyl bromide was completed, the solution was warmed to rt, stirred overnight, and then the solution was slowly poured into 500 mL of ice-water, causing a solid to precipitate. The precipitate was filtered, washed with water, and then dried in a vacuum dessicator overnight to afford 3.38 g (65%) of the title compound as a pale purple solid, mp 131°-134° C.: 1H NMR (DMSO-d6) δ10.23 (s, 1H), 7.45 (d, J=8.8, 2H), 6.88 (d, J=9.2, 2H), 3.99 (s, 2H), 3.92 (t, J=6.4, 2H), 1.68-1.65 (m, 2H), 1.42-1.40 (m, 2H), 0.92 (t, J=7.2, 3H); 13C NMR (DMSO-d6) δ164.18, 155.01, 131.57, 120.70, 114.50, 67.22, 30.73, 30.38, 18.70, 13.66; MS (EI, m/z) 287 (M+).

reactant | 4-butoxyaniline | 18 mmol, 3.0 g | C(CCC)OC1=CC=C(N)C=C1 | C10H15NO
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
reactant | Bromoacetyl bromide | 18 mmol, 1.60 mL, 3.68 g | BrCC(=O)Br | C2H2Br2O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 4-((Bromoacetyl)amino)-1-butoxyaniline | 3.38 g, 65% | BrCC(=O)NC1=CCC(N)(C=C1)OCCCC | C12H19BrN2O2
